US08183381B2
Preparation of Intermediate 20: 1-(5-(Trifluoromethyl)pyrimidin-2-yl)piperidin-4-ol
To a solution of 4-hydroxypiperidine (6.18 g, 61 mmol), and potassium carbonate (11.0 g, 80 mmol) in N,N dimethylformamide (150 mL) was added 2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidine (12.3 g, 54 mmol) and stirred at room temperature for 18 h. To the reaction mixture was added 300 mL of water and the heterogeneous mixture was stirred for an additional 10 minutes. The white solid was filtered and washed with water to afford the desired product.

reactant | 4-hydroxypiperidine | 61 mmol, 6.18 g | OC1CCNCC1 | C5H11NO
reactant | potassium carbonate | 80 mmol, 11.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidine | 54 mmol, 12.3 g | CS(=O)(=O)C1=NC=C(C=N1)C(F)(F)F | C6H5F3N2O2S
reactant | water | 300 mL | O | H2O
solvent | N,N dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 1-(5-(Trifluoromethyl)pyrimidin-2-yl)piperidin-4-ol | FC(C=1C=NC(=NC1)N1CCC(CC1)O)(F)F | C10H12F3N3O
